US07550487B2
Step 1: trans-(3RS,4RS)-1-Benzyl-pyrrolidine-3,4-dicarboxylic acid diethyl ester 1a
Fumaric acid diethylester (21.6 g; 0.126 mol) is dissolved in toluene (900 ml) and heated at 105° C. A mixture of N-benzylglycine (25 g; 0.151 mol) and paraformaldehyde (25.36 g; 0.844 mol) is added in 4 g portions to the refluxing solution. After completion of the addition the mixture is heated for 18 h at 105° C. The mixture is then evaporated to dryness and suspended in n-hexane. The insoluble material is filtered off and the remaining solution is evaporated to dryness. The crude product is used for the next step without further purification. Yield: 32.5 g (70.3%), ESI-MS: m/z=306 [M+H]+

reactant | Fumaric acid diethylester | 0.126 mol, 21.6 g | C(C)OC(\C=C\C(=O)OCC)=O | C8H12O4
reactant | N-benzylglycine | 0.151 mol, 25 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | paraformaldehyde | 0.844 mol, 25.36 g | C=O | CH2O
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
product | trans-(3RS,4RS)-1-Benzyl-pyrrolidine-3,4-dicarboxylic acid diethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)CC1=CC=CC=C1 | C17H23NO4
